US06121268
To a 250 ml round bottom flask equipped with a magnetic stirrer and reflux condenser, was charged 2.7 g (0.02 moles) of 3-hydroxyacetophenone, 2.1 g (0.02 moles) of benzaldehyde, 2.0 g (0.011 moles) of barium hydroxide, monohydrate, and 20 ml of absolute ethanol. The reaction mixture was refluxed for a total of 2.5 hours, after which it became thick and difficult to stir. Upon cooling, the resulting solid was dissolved in 100 ml. of 1 N aqueous hydrochloric acid, and another solid was observed to precipitate from this solution. The solid was collected by vacuum filtration, and washed with 100 ml. of water, then 100 ml. of hexane and dried in vacuuo at 40° C. for 24 hours. As a result, 4.2 g (93% yield) of 3'-hydroxychalcone was isolated as a tan solid, MP=143-147° C.

reactant | 3-hydroxyacetophenone | 0.02 moles, 2.7 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | benzaldehyde | 0.02 moles, 2.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | barium hydroxide, monohydrate | 0.011 moles, 2.0 g | O.[OH-].[Ba+2].[OH-]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3'-hydroxychalcone | 4.2 g, 93% yield | OC=1C=C(C(C=CC2=CC=CC=C2)=O)C=CC1 | C15H12O2
